US05998433
b) Synthesis of N,N-dimethyl-(6-(9-fluorenone-2-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-(9-fluorenone-2-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.188 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated; the resulting solid was washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[6-(9-fluorenone-2-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.188 g | CN(C)CC1=CC2=C(CN(CC2)C(=O)C2=CC=3C(C4=CC=CC=C4C3C=C2)=O)O1 | C24H22N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-(6-(9-fluorenone-2-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(=O)C2=CC=3C(C4=CC=CC=C4C3C=C2)=O)O1 | InChI=1S/C24H22N2O3.ClH/c1-25(2)13-17-11-15-9-10-26(14-22(15)29-17)24(28)16-7-8-19-18-5-3-4-6-20(18)23(27)21(19)12-16;/h3-8,11-12H,9-10,13-14H2,1-2H3;1H
